US06479519B1
(a) 3-(5-Nitro-pyrid-2-yl)propenoic acid ethyl ester
A mixture of 5-nitro-2-pyridinecarbaldehyde (2.85 g prepared according the procedure described in J. Med. Chem. 1992, 35, 3675) and (carbethoxymethylene)triphenylphosphorane (6.0 g) in dry toluene (120 ml) under nitrogen was stirred and heated at reflux for 6 hours. After standing at room temperature overnight the reaction mixture was evaporated. The residue was subjected to flash chromatography on silica gel eluting with dichloromethane to give the title compound (0.8 g) as a yellow solid.

reactant | 5-nitro-2-pyridinecarbaldehyde | [N+](=O)([O-])C=1C=CC(=NC1)C=O | C6H4N2O3
reactant | (carbethoxymethylene)triphenylphosphorane | 6.0 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(5-Nitro-pyrid-2-yl)propenoic acid ethyl ester | 0.8 g | C(C)OC(C=CC1=NC=C(C=C1)[N+](=O)[O-])=O | C10H10N2O4
